US04931436
6,11-Dihydro-11-[[4-[4-(1-pyrrolidinyl)butyl]-1-piperidinyl]carbonyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one
Prepared analogously to Example 4 from 11-(chlorocarbonyl)-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one and 4-[4-(1-pyrrolidinyl)butyl]piperidine in a yield of 72% of theory. Colourless crystals, m.p. 193°-195° C. (ethanol).

reactant | 11-(chlorocarbonyl)-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | ClC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 4-[4-(1-pyrrolidinyl)butyl]piperidine | N1(CCCC1)CCCCC1CCNCC1 | C13H26N2
solvent | ethanol | C(C)O | C2H6O
product | 6,11-Dihydro-11-[[4-[4-(1-pyrrolidinyl)butyl]-1-piperidinyl]carbonyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | yield of 72% | N1(CCCC1)CCCCC1CCN(CC1)C(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)C=CC=N2 | C26H33N5O2
